US06521658B1
5-nitro-1H-indole-3-sulfonyl chloride
A solution of chlorosulfonic acid (3 mL, 45 mmol) and Na2SO4 (700 mg, 4.9 mmol) in dichloromethane (30 mL) was treated dropwise with a solution of 5-nitroindole (800 mg, 4.9 mmol) in dichloromethane (20 mL) over 1 hour, stirred for another 30 minures, and decanted to provide a thick brown oil. The oil was slowly treated with water (20 mnL), stirred for 10 minutes, filtered, and dried in a vacuum oven to provide 651 mg of the desired product.

reactant | chlorosulfonic acid | 45 mmol, 3 mL | ClS(=O)(=O)O | ClHO3S
reactant | Na2SO4 | 4.9 mmol, 700 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 5-nitroindole | 4.9 mmol, 800 mg | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | water | O | H2O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-nitro-1H-indole-3-sulfonyl chloride | 651 mg | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)S(=O)(=O)Cl | C8H5ClN2O4S
